US05216148
Analogous to Example 1, from 7-amino-2,3,4,5-tetrahydro-1-methyl-2-oxo-1H-1-benzazepine was reacted with p-ethoxycarbonylbenzoyl chloride to yield ethyl p-[(2,3,4,5-tetrahydro-1-methyl-2-oxo-1H-1-benzazepin-7-yl)carbamoyl]benzoate, m.p. 184°-185° C.

reactant | 7-amino-2,3,4,5-tetrahydro-1-methyl-2-oxo-1H-1-benzazepine | NC=1C=CC2=C(CCCC(N2C)=O)C1 | C11H14N2O
reactant | p-ethoxycarbonylbenzoyl chloride | C(C)OC(=O)C1=CC=C(C(=O)Cl)C=C1 | C10H9ClO3
product | ethyl p-[(2,3,4,5-tetrahydro-1-methyl-2-oxo-1H-1-benzazepin-7-yl)carbamoyl]benzoate | CN1C(CCCC2=C1C=CC(=C2)NC(=O)C2=CC=C(C(=O)OCC)C=C2)=O | C21H22N2O4
